US08304446B2
N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-fluoro-1H-indazol-1-yl)methyl]phenyl}methyl)acetamide
To a solution of HATU (122 mg, 0.198 mmol) in anhydrous N,N-dimethylformamide (3 mL) was added at room temperature acetic acid (10.29 mL, 0.180 mmol) followed by N,N-diisopropylethylamine (0.094 mL, 0.539 mmol) and finally a solution of N-(1-{[3-(aminomethyl)phenyl]methyl}-4-fluoro-1H-indazol-3-yl)-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 39) (81 mg, 0.18 mmol) in anhydrous N,N-dimethylformamide (2 mL). The reaction mixture was stirred at room temperature for 30 min, and then partitioned between saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer was separated, washed with brine-water (1:1), passed through a hydrophobic frit and evaporated in-vacuo to yield a colourless oil. The residue was dissolved in MeOH-DMSO (1 mL) and purified by Mass Directed AutoPreparative HPLC MDAP (Sunfire C18 column 150 mm×30 mm i.d. 5 μm packing diameter at ambient temperature) eluting with solvents A/B (A: 0.1% v/v solution of formic acid in water, B: 0.1% v/v solution of formic acid in acetonitrile) over 25 min. The appropriate fraction was evaporated in-vacuo to yield a colourless oil (5.9 mg, 6%). LCMS (System B): RT=2.53 min, ES+ve m/z 493/495 (M+H)+.

reactant | HATU | 0.198 mmol, 122 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | acetic acid | 0.180 mmol, 10.29 mL | C(C)(=O)O | C2H4O2
reactant | N,N-diisopropylethylamine | 0.539 mmol, 0.094 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(1-{[3-(aminomethyl)phenyl]methyl}-4-fluoro-1H-indazol-3-yl)-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)F)NS(=O)(=O)C=1SC(=CC1)Cl | C19H16ClFN4O2S2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
product | N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-fluoro-1H-indazol-1-yl)methyl]phenyl}methyl)acetamide | 5.9 mg, 6% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)F)CC=1C=C(C=CC1)CNC(C)=O | C21H18ClFN4O3S2
